US08207172B2
Preparation of N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-2-{2-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-2-oxoethyl}-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine
To DMF (3 mL) were sequentially added [6-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-2-yl]acetic acid (80 mg, 0.15 mmol), 3(R)-(−)-3(Dimethylamino)pyrrolidine (23 mg, 0.20 mmol), (3-Dimethylamino-propyl)-ethyl-carbodiimide (50 mg, 0.26 mmol), 4-methylmorpholine (0.03 ml, 0.29 mmol), and 1-Hydroxybenzotriazole (39 mg, 0.29 mmol). The mixture was stirred at rt for 14 h after which time the reaction mixture was concentrated in vacuo. The residue was diluted with water and extracted with EtOAc. The combined organic layers were concentrated in vacuo and purified by prep HPLC. The combined fractions were treated with saturated Na2CO3 and dried to afford free base product (35 mg, 42%) as a white solid. 1H-NMR (CD2Cl2) δ 8.38 (s, 1H), 7.81 (d, 1H), 7.53 (s, 1H), 7.45 (dd, 1H), 7.38 (dd, 1H), 7.28-7.22 (m, 2H), 6.97-7.08 (m, 3H), 5.15 (s, 2H), 4.84 (s, 2H), 3.64-3.80 (m, 2H), 3.15-3.53 (m, 3H), 3.07 (t, 2H), 2.61-2.81 (m, 1), 2.25 (s, 3H), 2.23 (s, 3H), 1.69-2.20 (m, 3H); LCMS RT=3.80 min, [M+H]+=632.2

reactant | [6-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-2-yl]acetic acid | 0.15 mmol, 80 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC2=C1C1=C(C3=CN(N=C3CC1)CC(=O)O)S2 | C26H19ClFN5O3S
reactant | (3-Dimethylamino-propyl)-ethyl-carbodiimide | 0.26 mmol, 50 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | 4-methylmorpholine | 0.29 mmol, 0.03 ml | CN1CCOCC1 | C5H11NO
reactant | 1-Hydroxybenzotriazole | 0.29 mmol, 39 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-2-{2-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-2-oxoethyl}-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine | 35 mg, 42% | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1N=CN=C2C1C1=C(C3=CN(N=C3CC1)CC(=O)N1C[C@H](CC1)N(C)C)S2 | C32H31ClFN7O2S
